* PEX produced on Sun Aug 23 11:10:43 AM CST 2026 using /home/huda/opensource-project/Microelectronic-Block-Generator/designs/notebooks/chipathon2026-D/scripts/iic-pex.sh with m=2 and s=1
* NGSPICE file created from strongarm_comparator.ext - technology: gf180mcuD

.option scale=5n

.subckt strongarm_comparator OUTN OUTP CLK INN INP VSS VDD
X0 a_n3454_5664# CLK VDD VDD pfet_03v3 ad=48n pd=1.04m as=48n ps=1.04m w=400 l=100
X1 OUTP OUTN VDD VDD pfet_03v3 ad=48n pd=1.04m as=22.4n ps=0.512m w=400 l=100
X2 OUTP OUTN a_n2382_5664# VSS nfet_03v3 ad=22.4n pd=0.512m as=48n ps=1.04m w=400 l=100
X3 OUTP OUTN a_n2382_5664# VSS nfet_03v3 ad=48n pd=1.04m as=22.4n ps=0.512m w=400 l=100
X4 VSS CLK a_n3550_3046# VSS nfet_03v3 ad=48n pd=1.04m as=22.4n ps=0.512m w=400 l=100
X5 a_n2382_5664# OUTN OUTP VSS nfet_03v3 ad=22.4n pd=0.512m as=22.4n ps=0.512m w=400 l=100
X6 VSS CLK a_n3550_3046# VSS nfet_03v3 ad=22.4n pd=0.512m as=22.4n ps=0.512m w=400 l=100
X7 VDD OUTP OUTN VDD pfet_03v3 ad=22.4n pd=0.512m as=22.4n ps=0.512m w=400 l=100
X8 a_n3454_5664# OUTP OUTN VSS nfet_03v3 ad=22.4n pd=0.512m as=22.4n ps=0.512m w=400 l=100
X9 VDD OUTN OUTP VDD pfet_03v3 ad=22.4n pd=0.512m as=22.4n ps=0.512m w=400 l=100
X10 a_n3454_5664# INP a_n3550_3046# VSS nfet_03v3 ad=48n pd=1.04m as=22.4n ps=0.512m w=400 l=120
X11 OUTN CLK VDD VDD pfet_03v3 ad=48n pd=1.04m as=48n ps=1.04m w=400 l=100
X12 a_n3550_3046# INP a_n3454_5664# VSS nfet_03v3 ad=22.4n pd=0.512m as=22.4n ps=0.512m w=400 l=120
X13 a_n3550_3046# INN a_n2382_5664# VSS nfet_03v3 ad=22.4n pd=0.512m as=22.4n ps=0.512m w=400 l=120
X14 OUTN OUTP VDD VDD pfet_03v3 ad=22.4n pd=0.512m as=48n ps=1.04m w=400 l=100
X15 a_n3454_5664# INP a_n3550_3046# VSS nfet_03v3 ad=22.4n pd=0.512m as=22.4n ps=0.512m w=400 l=120
X16 a_n2382_5664# INN a_n3550_3046# VSS nfet_03v3 ad=22.4n pd=0.512m as=48n ps=1.04m w=400 l=120
X17 a_n2382_5664# INN a_n3550_3046# VSS nfet_03v3 ad=22.4n pd=0.512m as=22.4n ps=0.512m w=400 l=120
X18 OUTN OUTP a_n3454_5664# VSS nfet_03v3 ad=22.4n pd=0.512m as=48n ps=1.04m w=400 l=100
X19 OUTP OUTN VDD VDD pfet_03v3 ad=22.4n pd=0.512m as=48n ps=1.04m w=400 l=100
X20 a_n2382_5664# INN a_n3550_3046# VSS nfet_03v3 ad=48n pd=1.04m as=22.4n ps=0.512m w=400 l=120
X21 OUTP CLK VDD VDD pfet_03v3 ad=48n pd=1.04m as=48n ps=1.04m w=400 l=100
X22 a_n3550_3046# CLK VSS VSS nfet_03v3 ad=22.4n pd=0.512m as=48n ps=1.04m w=400 l=100
X23 a_n3550_3046# INN a_n2382_5664# VSS nfet_03v3 ad=22.4n pd=0.512m as=22.4n ps=0.512m w=400 l=120
X24 a_n3454_5664# INP a_n3550_3046# VSS nfet_03v3 ad=22.4n pd=0.512m as=48n ps=1.04m w=400 l=120
X25 a_n3550_3046# CLK VSS VSS nfet_03v3 ad=22.4n pd=0.512m as=22.4n ps=0.512m w=400 l=100
X26 OUTN OUTP VDD VDD pfet_03v3 ad=48n pd=1.04m as=22.4n ps=0.512m w=400 l=100
X27 a_n2382_5664# CLK VDD VDD pfet_03v3 ad=48n pd=1.04m as=48n ps=1.04m w=400 l=100
X28 a_n3550_3046# INP a_n3454_5664# VSS nfet_03v3 ad=22.4n pd=0.512m as=22.4n ps=0.512m w=400 l=120
X29 OUTN OUTP a_n3454_5664# VSS nfet_03v3 ad=48n pd=1.04m as=22.4n ps=0.512m w=400 l=100
C0 a_n3454_5664# INP 0.37851f
C1 a_n2382_5664# CLK 0.73908f
C2 a_n3550_3046# INN 0.48092f
C3 a_n2382_5664# a_n3454_5664# 0.37009f
C4 a_n2382_5664# OUTN 0.55834f
C5 a_n2382_5664# INN 0.36539f
C6 CLK OUTP 0.07114f
C7 a_n3454_5664# OUTP 0.26354f
C8 a_n2382_5664# VDD 2.39953f
C9 OUTN OUTP 2.76764f
C10 a_n3454_5664# CLK 0.29907f
C11 CLK OUTN 0.05805f
C12 a_n3550_3046# INP 0.50216f
C13 a_n3454_5664# OUTN 1.55911f
C14 INN CLK 0.04968f
C15 VDD OUTP 6.26419f
C16 a_n3454_5664# INN 0.0183f
C17 a_n3550_3046# a_n2382_5664# 2.32565f
C18 VDD CLK 3.13609f
C19 a_n3454_5664# VDD 2.06379f
C20 VDD OUTN 7.40959f
C21 a_n3550_3046# CLK 0.73716f
C22 a_n2382_5664# OUTP 1.81642f
C23 a_n3550_3046# a_n3454_5664# 3.23103f
C24 INN VSS 2.52441f
C25 INP VSS 2.43941f
C26 OUTP VSS 5.02231f
C27 OUTN VSS 3.86739f
C28 CLK VSS 4.10931f
C29 VDD VSS 35.636f
C30 a_n3550_3046# VSS 6.68367f ; **FLOATING
C31 a_n2382_5664# VSS 4.51352f ; **FLOATING
C32 a_n3454_5664# VSS 4.14289f ; **FLOATING
.ends
